US07737166B2
2-(4-Cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)-N,N-dimethylacetamide (I-313)
At room temperature, trimethylaluminium/n-hexane solution (1.03 mol/l) (547 μl, 0.563 mmol) was added to a toluene (2 ml) suspension of dimethylamine hydrochloride (38.3 mg, 0.469 mmol), followed by stirring at room temperature for 30 minutes. Methyl (4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)acetate (I-295) (65.0 mg, 0.188 mmol) was added to the reaction liquid, followed by heating under reflux in an oil bath at 120° C. for 15 hours. With cooling with ice, 1 N hydrochloric acid was added to the reaction liquid. After extraction with ethyl acetate, the obtained organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, then the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by preparative TLC (eluent, chloroform:methanol=10:1, v/v) to obtain the entitled compound (56.0 mg, 83%) as a white solid.

reactant | trimethylaluminium n-hexane | 0.563 mmol, 1.03 mol/l, 547 μl | C[Al](C)C.CCCCCC
reactant | dimethylamine hydrochloride | 0.469 mmol, 38.3 mg | Cl.CNC
reactant | Methyl (4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)acetate | 0.188 mmol, 65.0 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)CC(=O)OC)C2=CC=CC=C2)C | C21H18N2O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)-N,N-dimethylacetamide | 56.0 mg, 83% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)CC(=O)N(C)C)C2=CC=CC=C2)C | C22H21N3O2
